US05358950
4.8 g of 6-n-propyl-2-methyl-4-hydrazino-5-{[2'(5-tetrazolyl)-4-biphenylyl]methyl}pyrimidine, prepared in Example 67, are heated to reflux for 4 hours in 40 ml of triethyl orthoformate. The mixture is evaporated under vacuum and the residue is crystallised in an ethyl acetate/isopropyl ether mixture to give 1 g of 7-n-propyl-5-methyl-8-{[2'-(5-tetrazolyl)-4biphenylyl]methyl}-1,2,4-triazolo[4,3-c]pyrimidine in the form of crystals of melting point 182°-184° C.

reactant | 6-n-propyl-2-methyl-4-hydrazino-5-{[2'(5-tetrazolyl)-4-biphenylyl]methyl}pyrimidine | 4.8 g | C(CC)C1=C(C(=NC(=N1)C)NN)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1 | C22H24N8
reactant | triethyl orthoformate | 40 ml | C(OCC)(OCC)OCC | C7H16O3
product | 7-n-propyl-5-methyl-8-{[2'-(5-tetrazolyl)-4biphenylyl]methyl}-1,2,4-triazolo[4,3-c]pyrimidine | 1 g | C(CC)C1=C(C=2N(C(=N1)C)C=NN2)CC2=CC=C(C=C2)C2=C(C=CC=C2)C2=NN=NN2 | C23H22N8
